US05811428
To a solution of 3-nitro-5-trifluoromethylbenzoic acid (0.36 g, 1.53 mmol) in CH2Cl2 (20 mL) was added oxalyl chloride (0.58 g, 4.60 mmol) followed by DMF (3 drops). An immediate evolution of gas occurred and the reaction was stirred for 18 h. The solvent was removed under reduced pressure, the resulting oil was dissolved in THF (80 mL) and cooled to 0° C. To the cooled solution was added EtOH (5 mL) in THF (15 mL) and the mixture was stirred for 18 h at room temperature. The mixture was concentrated to remove the THF and the resulting precipitate was filtered and dried. The solid was dissolved in EtOH (25 mL) and 10% Pd/C (0.12 g) was added and the suspension was stirred for 15 h under a blanket of H2. The reaction was filtered through celite and the filtrate evaporated to dryness to provide 3-ethoxycarbonyl-5-trifluoromethylaniline as a yellow oil. This compound was then coupled to 2-chloro-4-trifluoromethyl pyrimidine-5-carbonyl chloride as described above to provide the title compound in a 12% yield; m.p. 67°-71° C.

reactant | 3-nitro-5-trifluoromethylbenzoic acid | 1.53 mmol, 0.36 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | oxalyl chloride | 4.60 mmol, 0.58 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-ethoxycarbonyl-5-trifluoromethylaniline | C(C)OC(=O)C=1C=C(N)C=C(C1)C(F)(F)F | C10H10F3NO2
